* C:\Users\wzhao\Documents\ee311-team06\Temp_sensing\SmartSensing_new.asc
* Generated by LTspice 24.1.9 for Windows.
Rfixed 5V V_TEMP 1.5k
V1 5V 0 5
B1 R_NTC 0 V={R25*exp(B*(1/(V(TEMP_SIM)+273.15)-1/298.15))}
R1 Vts V_TEMP 1k
C1 Vts 0 100n
X§U1 N034 N032 5V 0 N033 LM2903B
R2 5V N033 10k
R3 N014 V_ref 7.5k
R4 Vvs N014 33k
R5 N018 VOLT_SIM 7.5k
R6 N018 0 33k
R8 5V N021 10k
X§U4 N023 V_ref 5V 0 N021 LM2903B
V3 TEMP_SIM 0 69
B2 V_TEMP 0 I=V(V_TEMP)/(R25*exp(B*(1/(V(TEMP_SIM)+273.15)-1/298.15)))
X§U2 N018 N014 5V 0 Vvs TLC081
V2 VOLT_SIM 0 4
R10 N023 0 7.5k
R11 N023 N022 3.3k
V4 V_ref 0 2.5
R7 N001 0 1k
R9 N002 N001 56k
R12 N005 V_ref 47k
R13 N005 CURR_SIM 1k
R14 0 CURR_SIM 10m
R16 5V N024 10k
C2 N019 0 0.1µ
X§U6 N025 N019 5V 0 N024 LM2903B
I1 NC_01 CURR_SIM 2.48
A1 OCP_FAULT_DIS OVP_FAULT OTP_FAULT 0 0 0 HW_FAULT_B 0 OR Vhigh=5 Vlow=0 Ref=2.5
R15 NC_02 N032 47k
R17 N032 0 47k
R20 5V N034 33K
R21 N034 P001 10K
R22 P001 0 1K
R23 NC_03 N019 180k tol=10
R24 N019 0 3.3k tol=10
X§U3 N005 N001 5V 0 N002 level1 Avol=1Meg GBW=10Meg Vos=0 En=0 Enk=0 In=0 Ink=0 Rin=500Meg
A2 HW_FAULT_B RESET_ENABLE 0 0 0 0 HW_SAFE_B 0 SRFLOP Vhigh=5 Vlow=0 Ref=2.5
V5 N029 0 0
A3 HW_SAFE_B FW_SAFE 0 0 0 0 SYSTEM_FAULT_B 0 OR Vhigh=5 Vlow=0 Ref=2.5
V6 FW_SAFE 0 0
A4 HW_FAULT_B HW_FAULT_B 0 0 0 NOT_HW_FAULT_B 0 0 AND
A5 NOT_HW_FAULT_B 0 0 N029 0 0 RESET_ENABLE 0 AND
Q1 N036 P002 0 0 NPN
R18 P002 SYSTEM_ENABLE_B 10k
R19 N036 VOLT_SIM 100k
R25 BOOST_IN 0 1k
X§M1 BOOST_IN N036 VOLT_SIM AO3401A
A6 SYSTEM_FAULT_B 0 0 0 SYSTEM_FAULT_B SYSTEM_ENABLE_B 0 0 AND
R31 5V N016 10k
X§U7 N017 N011 5V 0 N016 LM2903B
R32 N017 0 10k tol=10
R33 N015 N017 22k tol=10
R26 N010 N011 10k tol=10
R27 N011 0 10k tol=10
X§U5 N035 Vts 5V 0 OTP_FAULT TLC081
X§U8 Vis N003 5V 0 N006 TLC081
R34 5V N003 10k
R35 N003 0 68k
X§U9 N004 Vis 5V 0 N007 TLC081
R37 5V N004 33k
R38 N004 0 39k
X§U10 Vvs N020 5V 0 OVP_FAULT TLC081
R30 5V N020 10k
R36 N020 0 68k
A7 OCP_FAULT_CHAR OVP_FAULT OTP_FAULT 0 0 0 HW_FAULT_C 0 OR Vhigh=5 Vlow=0 Ref=2.5
A8 HW_FAULT_C RESET_ENABLE 0 0 0 0 HW_SAFE_C 0 SRFLOP Vhigh=5 Vlow=0 Ref=2.5
V7 N030 0 0
A9 HW_SAFE_C FW_SAFE 0 0 0 0 SYSTEM_FAULT_C 0 OR Vhigh=5 Vlow=0 Ref=2.5
A10 HW_FAULT_C HW_FAULT_C 0 0 0 NOT_HW_FAULT_C 0 0 AND
A11 NOT_HW_FAULT_C 0 0 N030 0 0 RESET_ENABLE 0 AND
Q2 N037 P003 0 0 NPN
R28 P003 N038 10k
A12 SYSTEM_FAULT_C 0 0 0 SYSTEM_FAULT_C N038 0 0 AND
R40 5V N035 47k
R41 N035 P004 47k
R42 P004 0 330
R43 N037 Charger_Output 100k
R44 BAT_IN 0 1k
X§M3 BAT_IN N037 Charger_Output AO3401A
B4 Vis 0 V=V(V_ref)+100*(V(CURR_SIM)-V(0))
X§U11 Vis N012 5V 0 OCP_FAULT_DIS TLC081
R45 5V N012 1k
R46 N012 0 100k
X§U13 N013 Vis 5V 0 OCP_FAULT_CHAR TLC081
R47 5V N013 1k
R48 N013 0 47k
V8 Charger_Output 0 3.5
.model NPN NPN
.model PNP PNP
.lib C:\Users\wzhao\AppData\Local\LTspice\lib\cmp\standard.bjt
.param R25 = 10k B=4300
* Showing Resistances at different temperature
* Temperature Resistance Voltage\n25          10k        4.35V\n65          1.81k      2.73V\n70          1.51k      2.51V\n85          0.893k     1.87V
* V_TEMP = 5 * (Rntc/10k+Rntc)\nRntc = {R25*exp(B*(1/(Tsim+273.15)-1/298.15))}
* cut off freq ~910Hz\ntime constant ~175us, 5 time constant ~0.88ms\nTermocoolnig time constant ~20s, 0.88ms << 20s, so valid cutoff
.inc TLC081.mod
.inc lm393.lib
* TEMPERATURE SENSING CCT
* VOLTAGE SENSING CCT
.tran 0 10m 0 1m
* Feed this to MCU for ADC Sampling\nAmplified signal to increase ADC resolution
* OVP Detection
* OTP Detection
* CURRENT SENSING CCT
* Feed this to MCU for ADC Sampling\nAmplified signal to increase ADC resolution
* OCP Detection\n- Discharging Current, cut off 2.5A
* PROTECTION CCT BOOST CONVERTER
* HARDWARE SAFETY SIGNAL\n1 = NOT SAFE\n0 = SAFE
* RESET\n5V -> R = 1\n0V -> R = 0
* step down voltage (input voltage for LM393 can't go beyond 3V)
* step down voltage \n(input voltage for LM393 can't go beyond 3V)
* FW_SAFE simulation\n1 = NOT SAFE\n0 = SAFE
* Voltage, current, temperature simulation of Supercapacitor
.inc AO3401A.mod
.inc ina240a1.lib
* OCP Detection\n- Charging Current, cut off 0.5A
* PROTECTION CCT CHARGER
* HARDWARE SAFETY SIGNAL\n1 = NOT SAFE\n0 = SAFE
* RESET\n5V -> R = 1\n0V -> R = 0
* OCP Detection\n- Discharging Current, cut off 2.5A
* OCP Detection\n- Charging Current, cut off 0.5A
.lib UniversalOpAmp1.lib
.backanno
.end
